US04281000
3-Chloro-2-methyl-7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine
As for Example 34, 2-methyl-7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine is reacted with N-chlorobenzotriazole to give the product of the example.

reactant | 2-methyl-7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine | CC1=NN2C(N=CC=C2C=2C=NC=CC2)=C1 | C12H10N4
reactant | N-chlorobenzotriazole | ClN1N=NC2=C1C=CC=C2 | C6H4ClN3
product | 3-Chloro-2-methyl-7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine | ClC=1C(=NN2C1N=CC=C2C=2C=NC=CC2)C | C12H9ClN4
